US05248685
1-(3-Benzyloxyphenyl)-3-(3-(methoxycarbonyl)phenyl)-2-propen-1-one
To CH3ONa (0.45 g, 0.0082 mol) stirring in 20 ml of dry CH3OH at 10° C. was added 3-benzyloxyacetophenone (5.0 g, 0.019 mol) and methyl 3-formylbenzoate (3.12 g, 0.019 mol). A heavy precipitate formed almost immediately, and the mixture was diluted with 20 ml CH3OH, warmed to room temperature and stirred for 18 hours. Glacial acetic acid (3 ml) was added and the mixture poured into 300 ml H2O. Title product was recovered by filtration, air dried and purified by chromatography on silica gel gradiently eluted with 49 to 39:1 toluene:ethyl acetate, 4.97 g of solid; MS 372.2 (M+); 1H-NMR (300 MHz, CDCl3) delta (ppm) 3.95 (s, 3H), 5.14 (s, 2H), 7.2-7.9 (m, 13H), 8.06 (dt, 1H), 8.3 (s, 1H); TLC Rf 0.7 (49:1 CHCl3 :isopropanol).

reactant | CH3ONa | 0.0082 mol, 0.45 g | CO[Na]
reactant | 3-benzyloxyacetophenone | 0.019 mol, 5.0 g | CC(=O)C1=CC(=CC=C1)OCC2=CC=CC=C2 | C15H14O2
reactant | methyl 3-formylbenzoate | 0.019 mol, 3.12 g | C(=O)C=1C=C(C(=O)OC)C=CC1 | C9H8O3
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | CH3OH | 20 ml | CO | CH4O
solvent | CH3OH | 20 ml | CO | CH4O
solvent | H2O | 300 ml | O | H2O
product | 1-(3-Benzyloxyphenyl)-3-(3-(methoxycarbonyl)phenyl)-2-propen-1-one | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C=CC1=CC(=CC=C1)C(=O)OC)=O | C24H20O4
